US07163937B2
Preparation B6, Step 3: To a solution of methyl 2-amino-5-(trifluoromethyl)benzoate (0.25 g, 1.141 mmol) and triethylamine (0.115 g, 0.16 ml, 1.14 mmol) in 3 ml of dry dichloromethane was added trifluoromethane sulfonic anhydride (0.64 g, 2.28 mmol) at −78° C. The mixture was maintained below −40° C. for 3 h and stirred at RT for over night. Water was added and extracted with dichloromethane. The organic layer was dried and concentrated. The product was purified by flash chromatography to give 0.3 g (75%) of methyl 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoate as white solid. MS found: (M+H)+=352.

reactant | methyl 2-amino-5-(trifluoromethyl)benzoate | 1.141 mmol, 0.25 g | NC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C9H8F3NO2
reactant | triethylamine | 1.14 mmol, 0.16 ml, 0.115 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 2.28 mmol, 0.64 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | methyl 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoate | 0.3 g, 75% | FC(C=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C(F)(F)F)(F)F | C10H7F6NO4S
